US05958376
N,N'-bis[2,4,6-triiodo-3,5-bis(2,3-dihydroxypropylaminocarbonyl)phenyl]-N-hydroxyethyl-urea
N,N'-bis[2,4,6-triiodo-3,5-bis(2,3-dihydroxypropylaminocarbonyl)phenyl]-urea (2.0 g, 1.4 mmol) was dissolved in water (13 ml) containing 2 M NaOH (7 ml). 2-Bromoethanol (1 g, 8.4 mmol) was added and the mixture was stirred at ambient temperature for 60 h, treated with a strongly acidic ion exchange resin (Amberlyst 15) evaporated and purified by preparative HPLC. Yield: 1.45 g (70%) of the product as a white solid.

reactant | N,N'-bis[2,4,6-triiodo-3,5-bis(2,3-dihydroxypropylaminocarbonyl)phenyl]-urea | 1.4 mmol, 2.0 g | IC1=C(C(=C(C(=C1C(=O)NCC(CO)O)I)C(=O)NCC(CO)O)I)NC(=O)NC1=C(C(=C(C(=C1I)C(=O)NCC(CO)O)I)C(=O)NCC(CO)O)I | C29H34I6N6O13
reactant | NaOH | 2 M, 7 ml | [OH-].[Na+]
reactant | 2-Bromoethanol | 8.4 mmol, 1 g | BrCCO | C2H5BrO
solvent | water | 13 ml | O | H2O
product | N,N'-bis[2,4,6-triiodo-3,5-bis(2,3-dihydroxypropylaminocarbonyl)phenyl]-N-hydroxyethyl-urea | IC1=C(C(=C(C(=C1C(=O)NCC(CO)O)I)C(=O)NCC(CO)O)I)N(C(=O)NC1=C(C(=C(C(=C1I)C(=O)NCC(CO)O)I)C(=O)NCC(CO)O)I)CCO | C31H38I6N6O14
